Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
placement of port with ___ ___

 
History of Present Illness:
Ms. ___ is a pleasant ___ with hx of metastatic, 
recurrent
ovarian cancer presenting with diarrhea x5-6 episodes today and
abdominal pain. Pt had diarrhea 6 days ago and went to an 
outside
hospital where she had IVF with relief. Pt then did not have a 
BM
for 3 days and took miralax, colase, ducolax, followed by more
miralax. Today she had non-bloody diarrhea and cramping lower 
abd
pain. Denies N/V, dysuria, fevers, back pain.

In the ed, she was noted to have bilateral lower abd tenderness.
She received 2 mg Morphine, followed by 4 rounds of 4 mg 
morphine
over the past 24 hrs she has been in the ED. She also received 2
L NS, 4 mg zofran x 2 and 40 KCL PO. She had a CT of her abdomen
w/ contrast which revealed no acute process so she was admitted
for further management of her pain. 

Of note, she was admitted ___ for abdominal pain. On ___ 
she
underwent a diagnostic laparoscopy, lysis of adhesions, and
biopsy of a pelvic nodule with the GYN oncology team. Intraop
findings notable for diffuse peritoneal disease along left 
pelvic
side wall, thick nodular plaque-like disease on central tendon 
of
right side of diaphragm with disease coalescing centrally around
vessels, spot 2-3mm miliary disease on peritoneal surfaces and
within mesentery, malignant adhesions between small bowel to
anterior abdominal wall, small plaques of disease on surface of
bowel, left paracolic gutter nodules.

She notes that the abdominal cramps she has now is what led to
her recent diagnosis of recurrent ovarian ca. She notes that
after her surgery, her abdominal cramps slowly dissipated and
eventually resolved. However now the cramps have been recurrent
and progressive. She has cramps continuously, in her lower
quadrants, at best ___, at worst ___ which she is in now.
Nausea hasn't been too much of a problem until she started 
taking
chemotherapy again and now she has depressed appetite. Pain is
ameliorated with morphine, ibuprofen, apap, passing gas and
defecation. She recently went 3 days w/o moving bowels and took
miralax, colace and then had ___ liquid stools yesterday. Today
she had one hard bowel movement. 

She notes she has had IBS in the past, mainly diarrhea. She 
can't
tell if her current cramping is similar but she took immodium in
the past for the ibs w/ good relief. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Stage IIC Ovarian cancer, high grade serous
- ___ presented at ___ with acute RLQ
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with
TAH/BSO, pelvic tumor resection, total pelvic lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ CA 125 Increasing 24.
- ___ CT Abd/Pelvis: 
1. There is a new 2.3 cm solid nodule in the pelvis adjacent to
the left-sided lymphocele long the the external iliac vessels. 
This is highly suspicious for disease recurrence.  
2.  A apparently new hypodensity in the liver in segment 
7 measuring 7 mm is also identified for which MRI is recommended
for further evaluation. 

PMH:
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS

Past Obstetric and Gynecologic Histories: 
Pregnancies: G0
No prior STDs
Not sexually active
Denies prior abnormal Pap smears
History of uterine fibroids

PSH: wrist surgery; right ovarian laparoscopic cystectomy; 
TAH/BSO, pelvic tumor resection,  
total pelvic lymphadenectomy, para-aortic LN resection,  
infracolic omemtectomy, peritoneal biopsies  

 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal  
great uncle had colon cancer. Mother and grandfather have high  
blood pressure. Mother has DM, and father has psoriasis. She  
otherwise denies a family history of ovarian, uterine, cervical  

or vaginal cancer.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITAL SIGNS: ___ 87 ___ 100% RA
General:  NAD, Resting in bed comfortably
HEENT:  oral mucosa dry, no OP lesions, no
cervical/supraclavicular adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, notes TTP to deep palpation of all quadrants,
especially lower, some nodularity palpable, no organomegaly
appreciable, old surgical scars healed
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal

DISCHARGE PHYSICAL EXAM
VITAL SIGNS: 97.8 PO 110 / 60 82 19 100 RA 
General:  NAD, Resting in bed comfortably
HEENT:  oral mucosa moist, no OP lesions, no
cervical/supraclavicular adenopathy
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, nondistended, notes TTP to deep palpation of 
all
quadrants, especially lower, some nodularity palpable, no
organomegaly appreciable, old surgical scars well healed
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal
 
Pertinent Results:
ADMISSION LABS
___ 08:10PM BLOOD WBC-6.2 RBC-3.62* Hgb-9.5* Hct-29.9* 
MCV-83 MCH-26.2 MCHC-31.8* RDW-14.4 RDWSD-43.1 Plt ___
___ 08:10PM BLOOD Neuts-73.8* ___ Monos-4.8* 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-4.60 AbsLymp-1.25 
AbsMono-0.30 AbsEos-0.05 AbsBaso-0.02
___ 08:10PM BLOOD Plt ___
___ 08:10PM BLOOD Glucose-90 UreaN-16 Creat-0.8 Na-140 
K-3.2* Cl-100 HCO3-32 AnGap-11
___ 08:10PM BLOOD estGFR-Using this
___ 08:10PM BLOOD Calcium-9.2 Phos-2.5* Mg-1.8

DISCHARGE LABS
___ 08:20AM BLOOD WBC-5.6# RBC-3.46* Hgb-9.1* Hct-28.6* 
MCV-83 MCH-26.3 MCHC-31.8* RDW-13.8 RDWSD-40.7 Plt Ct-77*
___ 08:00AM BLOOD Neuts-67.5 ___ Monos-7.4 Eos-0.5* 
Baso-0.3 Im ___ AbsNeut-2.47 AbsLymp-0.88* AbsMono-0.27 
AbsEos-0.02* AbsBaso-0.01
___ 08:20AM BLOOD Plt Ct-77*
___ 08:20AM BLOOD ___ PTT-34.3 ___
___ 08:20AM BLOOD Creat-0.7 K-3.8
___ 07:05AM BLOOD estGFR-Using this
___ 08:00AM BLOOD AlkPhos-117*
___ 08:00AM BLOOD Calcium-8.9 Phos-3.6 Mg-1.8

IMAGING:
Diagnostic Lap ___
On exploratory laparoscopy, we identified
adhesions of the small bowel to the anterior abdominal wall
by the umbilicus.  No other significant adhesions were
identified within the abdomen or pelvis.  Within the pelvis,
there were some adhesions of the rectosigmoid to the left
pelvic sidewall and that pelvic side wall was covered with
what appeared to be cancer that had spread from essentially
the vaginal cuff up to the pelvic brim and then up into the
left paracolic gutter.  There was thick nodular plaque-like
disease on the central tendon on the right side of the
diaphragm.  The lateral side of the diaphragm was clear, but
this disease appeared to coalesce centrally around the
vessels.  We also identified areas of spot miliary disease on
the peritoneal surfaces and within the mesentery.  All of the
spot miliary disease nodules were on the order of 2-3 mm in
size.  The adhesions of the small bowel to the anterior
abdominal wall by the umbilicus appeared to be malignant
adhesions.  There were several small plaques of disease on
the surface of the bowel and we dissected these adhesions
free around the umbilicus.  We removed a nodule from the left
paracolic gutter.

CT Abd/Pelv w/ Con ___: PRELIM read
1. No acute process in the abdomen or pelvis. 
2. Stable appearance of right subdiaphragmatic nodularity, which
may represent metastatic disease.  Recommend continued attention
on followup.  Unchanged appearance of left pelvic sidewall soft
tissue mass.  No evidence of short interval disease progression. 

  
RECOMMENDATION(S): 
Stable appearance of right subdiaphragmatic nodularity, which 
may
represent metastatic disease.  Recommend continued attention on
followup. 

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___ 
No cholelithiasis.

 
Brief Hospital Course:
___ w/ recently diagnosed recurrent metastatic high grade serous 
ovarian carcinoma w/ diffuse peritoneal disease (initially Stage 
IIc s/p total abdominal hysterectomy, b/l salpingo-oophorectomy,
pelvic and paraaortic lymph node dissection, and omentectomy in 
___, who presents with chronic crampy abdominal pain 
without acute findings as well as alternating constipation and 
diarrhea in the setting of pain and constipation medication 
management. She had port placed for planned outpt chemotherapy 
while in house. 

# Abdominal Pain
Etiology is most likely due to extensive peritoneal malignant 
disease. As noted on her diagnostic lap on ___, she has 
"diffuse peritoneal disease, especially in the right upper 
quadrant, diaphragm with central tendon bulky disease, small 
bowel disease with adhesions to the umbilical area, left lower 
quadrant disease diffuse with adhesions of the large bowel to 
the pelvic sidewall." Admission CT did not reveal any acute 
process. By history, her pain is concurrent w/ her diagnosis of 
ovarian ca and has no provoking factors and constantly present, 
suggestive of disease related pain. She has had no acute change 
in the quality of her pain. She is moving gas and stool. RUQ U/S 
showed No cholelithiasis. Discussed with gyn/onc; no further 
role for surgery at this time. 
She was given bentyl PRN cramps and continued amitriptyline qhs, 
supportive pain control w/ po morphine, apap, avoid IV meds for 
dispo pending, and started on fentanyl patch 12 for longer 
duration of coverage. continued colace/senna, PRN milk of mag 
for constipation. regular diet tolerated well throughout 
admission.  will follow up with outpatient onc, likely plan 
continuing chemotherapy as outpatient now that she is s/p PICC 
placement with ___. 

# Ovarian Cancer, Metastatic, Recurrent
She is now on C1D12 of carboplatin every 3 weeks. She will be 
due for C2 on ___.
Dr. ___ updated, will f/u outpatient. 
discussed with gyn/onc; will discontinue estrogen for 
optimization of response to chemo.  Now s/p port placement ___ 
while patient inpatient. discharged after port for further 
outpatient care. Continued pain management and bowel regimen as 
above.

CHRONIC ISSUES:
# Depression:
- Continued home amitriptyline, aripiprazle, and Cymbalta, 
Ativan PRN
-underwent EKG for qtc monitoring

# Nausea: Zofran/compazine PRN nausea

# GERD: Continued home omeprazole

# HTN: home losartan 

# Hypothyroidism: Continued home synthroid

TRANSITIONAL ISSUES
===========================
#abdominal pain likely chronic cancer pain, no acute findings on 
CT abdomen pelvis or RUQUS 
#started on Fentanyl Patch 12 mcg/h TD Q72H for pain control, 
Morphine Sulfate ___ 7.5-15 mg PO/NG Q4H:PRN for breakthrough 
pain
#continue bowel regimen
#patient underwent port placement with ___ during admission
# Started prednisone burst (5 days 40 mg, to end ___ from itch 
related to likely oxycodone use in house
#chemo plans per outpatient oncology
#FULL CODE
#HCP: Health Care Proxy: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO QHS insomnia 
2. ARIPiprazole 2 mg PO QHS 
3. Docusate Sodium 100 mg PO DAILY 
4. DULoxetine 120 mg PO DAILY 
5. Gabapentin 600 mg PO QHS 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Loratadine 10 mg PO DAILY 
8. Lorazepam 0.5-1 mg PO QHS:PRN Anxiety 
9. Losartan Potassium 75 mg PO DAILY 
10. Omeprazole 40 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
12. Acetaminophen ___ mg PO Q6H:PRN pain 
13. Ibuprofen 600 mg PO Q6H:PRN pain 
14. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
15. Estrogens Conjugated 0.3 mg PO DAILY surgical menopause 
16. Morphine Sulfate ___ 7.5-15 mg PO Q8H:PRN Pain 
17. Prochlorperazine 10 mg PO Q8H:PRN nausea 
18. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Fentanyl Patch 12 mcg/h TD Q72H 
RX *fentanyl 12 mcg/hour  every 72 hors Disp #*10 Patch 
Refills:*0
2. Acetaminophen ___ mg PO Q6H:PRN pain 
3. Amitriptyline 10 mg PO QHS insomnia 
4. ARIPiprazole 2 mg PO QHS 
5. DULoxetine 120 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
7. Gabapentin 600 mg PO QHS 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Loratadine 10 mg PO DAILY 
10. Lorazepam 0.5-1 mg PO QHS:PRN Anxiety 
11. Omeprazole 40 mg PO DAILY 
12. Ondansetron 8 mg PO Q8H:PRN nausea 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
14. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
15. Ibuprofen 600 mg PO Q6H:PRN pain 
16. Losartan Potassium 75 mg PO DAILY 
17. Prochlorperazine 10 mg PO Q8H:PRN nausea 
18. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablets by mouth twice a day 
Disp #*30 Tablet Refills:*0
19. PredniSONE 40 mg PO DAILY Duration: 5 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0
20. Sarna Lotion 1 Appl TP BID:PRN itch 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % apply as 
needed for itch daily Refills:*0
21. DICYCLOMine 20 mg PO QID:PRN abdominal cramps 
RX *dicyclomine 20 mg 1 tablet(s) by mouth up to four times a 
day Disp #*60 Tablet Refills:*0
22. Morphine Sulfate ___ 7.5-15 mg PO Q4H:PRN pain 
RX *morphine 15 mg ___ tablet(s) by mouth pain Disp #*20 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
recurrent metastatic high grade serous ovarian carcinoma w/ 
diffuse peritoneal disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for abdominal pain and 
management of your pain medications and constipation 
medications. Your regimens were readjusted and you were started 
on a fentanyl patch. You should continue to take your pain 
medications and constipation medications as prescribed. You are 
now safe for discharge home with close follow up.

It was a pleasure caring for you - we wish you all the best!
Sincerely,
Your ___ Oncology Team
 
Followup Instructions:
___